US04105798
Reaction of cyclopentadiene with hexafluoro-but-2-yne at 100° C for 24 hours gives 2,3-bis (trifluoromethyl) bicyclo [2.2.1] heptadiene which, upon hydrogenation over platinum, gives 2,3-bis(trifluoromethyl) bicyclo [2.2.1] heptane.

reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | hexafluoro-but-2-yne | FC(C#CC(F)(F)F)(F)F | C4F6
product | 2,3-bis (trifluoromethyl) bicyclo [2.2.1] heptadiene | FC(C1=C2CCC(=C1C(F)(F)F)C2)(F)F | C9H6F6
